US03957769
G. 6-Chloro-1-phenyl-7-sulfamyl-1,2,4-benzothiadiazine3(4H)-one-1-oxide
A stirred mixture of 34.5 g (0.1 mole) of 5-chloro-2-(phenylsulfonimidoyl)-4-sulfamylaniline and 16.2 g (0.1 mol) of 1,1'-carbonyldiimidazole in 500 ml. of o-dichlorobenzene is heated under reflux conditions for 2 hours, filtered, and cooled, yielding the product.

reactant | 5-chloro-2-(phenylsulfonimidoyl)-4-sulfamylaniline | 0.1 mole, 34.5 g | ClC=1C(=CC(=C(N)C1)S(=O)(=N)C1=CC=CC=C1)S(N)(=O)=O | C12H12ClN3O3S2
reactant | 1,1'-carbonyldiimidazole | 0.1 mol, 16.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 6-Chloro-1-phenyl-7-sulfamyl-1,2,4-benzothiadiazine3(4H)-one-1-oxide | ClC=1C(=CC2=C(NC(NS2(C2=CC=CC=C2)=O)=O)C1)S(N)(=O)=O | C13H12ClN3O4S2
